US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(4-methanesulfonylamino-phenyl)-acetamide (45 70002501)
The title compound is prepared from 2-chloro-N-(4-methanesulfonylamino-phenyl)-acetamide and 4-benzyl-piperidine according to the method described in Example 142b. Melting Point: 102-106° C. (hexane)

reactant | 2-chloro-N-(4-methanesulfonylamino-phenyl)-acetamide | ClCC(=O)NC1=CC=C(C=C1)NS(=O)(=O)C | C9H11ClN2O3S
reactant | 4-benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | hexane | CCCCCC | C6H14
product | 2-(4-Benzyl-piperidin-1-yl)-N-(4-methanesulfonylamino-phenyl)-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)NC1=CC=C(C=C1)NS(=O)(=O)C | C21H27N3O3S
